US06403595B1
4-[4-(1H-imidazol-1-ylmethyl)benzenesulfonyl]-1-[1-(4-pyridyl)piperidin-4-ylmethyl]-2-piperazinone-hydrochloride
A mixture of 4-[4-(1H-imidazol-1-ylmethyl)benzenesulfonyl]-1-(piperidin-4-ylmethyl)-2-piperazinone dihydrochloride (209 mg) and chloropyridine hydrochloride (93 mg) was added to sodium bicarbonate solution, and the mixture was extracted with dichloromethane (twice), dried and concentrated. To the residue was added isoamylalcohol (10 ml), and the mixture was stirred at 130° C. for 15 hours. The reaction solution was concentrated, and the residue was dissolved in dichloromethane. The solution was washed with 1N sodium hydroxide solution, dried and concentrated, and the residue was purified with silica gel column chromatography (dichloromethane:methanol containing 10% ammonia solution=7:1) to give colorless solid of 4-[4-(1H-imidazol-1-ylmethyl)benzenesulfonyl]-1-[1-(4-pyridyl)piperidin-4-ylmethyl]-2-piperazinone (102 mg). The obtained 4-[4-(1H-imidazol-1-ylmethyl)benzenesulfonyl]-1-[1-(4-pyridyl)piperidin-4-ylmethyl]-2-piperazinone was dissolved in ethyl acetate (5 ml), and to the solution was added a solution of 4N hydrochloric acid in ethyl acetate. Precipitates were filtered, washed with ethyl acetate and dried to give colorless solid of the title compound (103 mg).

reactant | 4-[4-(1H-imidazol-1-ylmethyl)benzenesulfonyl]-1-[1-(4-pyridyl)piperidin-4-ylmethyl]-2-piperazinone | N1(C=NC=C1)CC1=CC=C(C=C1)S(=O)(=O)N1CC(N(CC1)CC1CCN(CC1)C1=CC=NC=C1)=O | C25H30N6O3S
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 4-[4-(1H-imidazol-1-ylmethyl)benzenesulfonyl]-1-[1-(4-pyridyl)piperidin-4-ylmethyl]-2-piperazinone-hydrochloride | 103 mg | Cl.N1(C=NC=C1)CC1=CC=C(C=C1)S(=O)(=O)N1CC(N(CC1)CC1CCN(CC1)C1=CC=NC=C1)=O | InChI=1S/C25H30N6O3S.ClH/c32-25-19-31(35(33,34)24-3-1-21(2-4-24)17-28-14-11-27-20-28)16-15-30(25)18-22-7-12-29(13-8-22)23-5-9-26-10-6-23;/h1-6,9-11,14,20,22H,7-8,12-13,15-19H2;1H
